US04367238
A mixture of 2-methyl-6-(3-chlorophenoxy)aniline (40 g) and conc. hydrochloric acid (36 ml) in water (125 ml) was treated in a similar manner to that of Example 6-(1) to give oily 6-(3-chlorophenoxy)-o-cresol (13.9 g)

reactant | 2-methyl-6-(3-chlorophenoxy)aniline | 40 g | CC1=C(N)C(=CC=C1)OC1=CC(=CC=C1)Cl | C13H12ClNO
reactant | hydrochloric acid | 36 ml | Cl | ClH
reactant | water | 125 ml | O | H2O
product | 6-(3-chlorophenoxy)-o-cresol | 13.9 g | ClC=1C=C(OC=2C=CC=C(C2O)C)C=CC1 | C13H11ClO2
